US07354944B2
N-(5-(3-Methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)-1,3,4-thiadiazol-2-yl)acetamide:
The starting material 1-acetyl-3-((E)-(3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methyleneamino)isothiourea (5 g) (80 mg, 0.22 mmol) was taken up in 5 ml acetic acid and 1.2 ml peracetic acid in a round bottom flask. The mixture was heated to 60° C. After 15 min, the product was precipitated out. The solid was filtered off and washed with ether (50 ml). The yield for this reaction was quantitative and the product was used for the next step without turther purification.

reactant | 1-acetyl-3-((E)-(3-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)methyleneamino)isothiourea | 0.22 mmol, 5 g | C(C)(=O)NC(S)=N/N=C/C=1C=C2C(=NC1)NN=C2C | C11H12N6OS
reactant | peracetic acid | 1.2 ml | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(5-(3-Methyl-1H-pyrazolo[3,4-b]pyridin-5-yl)-1,3,4-thiadiazol-2-yl)acetamide | CC1=NNC2=NC=C(C=C21)C2=NN=C(S2)NC(C)=O | C11H10N6OS
